US07081531B2
4-Amino-2-hydroxy-cyclohexanecarboxylic acid methyl ester acetic acid salt (6.6 g) was heated to reflux in mesitylene (60 ml) for 3 h. After cooling to rt, solvent was decanted and the crystals were washed with hexane three times to provide 2.9 g of 5-hydroxy-2-aza-bicyclo[2.2.2]octan-3-one (M+: 141).

reactant | 4-Amino-2-hydroxy-cyclohexanecarboxylic acid methyl ester acetic acid salt | 6.6 g | C(C)(=O)O.COC(=O)C1C(CC(CC1)N)O
solvent | mesitylene | 60 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 5-hydroxy-2-aza-bicyclo[2.2.2]octan-3-one | 2.9 g | OC1C2C(NC(C1)CC2)=O | C7H11NO2
